US09260408B2
6-(2-Methoxycarbonyl-vinyl)-5-nitro-[2,3′]bipyridinyl-5′-carboxylic acid methyl ester (926 mg, 2.7 mmol), 10% Pd/C (300 mg) and AcOH (1.3 mL) were suspended in methanol (300 mL) and the reaction mixture was stirred at 50° C. under 50 psi H2 pressure for 13 hours. After filtration, the reaction mixture was concentrated in vacuo to give a crude product of 5-(6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester (500 mg, 65.4%) as a light yellow solid. MS: 284.1 (M+H+).

reactant | 6-(2-Methoxycarbonyl-vinyl)-5-nitro-[2,3′]bipyridinyl-5′-carboxylic acid methyl ester | 2.7 mmol, 926 mg | COC(=O)C=1C=C(C=NC1)C1=NC(=C(C=C1)[N+](=O)[O-])C=CC(=O)OC | C16H13N3O6
reactant | AcOH | 1.3 mL | CC(=O)O | C2H4O2
solvent | methanol | 300 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 5-(6-oxo-5,6,7,8-tetrahydro-[1,5]naphthyridin-2-yl)-nicotinic acid methyl ester | 500 mg, 65.4% | COC(C1=CN=CC(=C1)C1=NC=2CCC(NC2C=C1)=O)=O | C15H13N3O3
